US04675186
(N-Methyl-2-indolyl)glyoxal
By the method of Preparations 4 to 6, methyl N-methylindole-2-carboxylate was converted, 2-(N-methyl-2-indolyl)-2-oxo-1-(methylthio)ethanol. The latter (31.21 g., 0.13 mol) was converted to present title product according to Preparation 7, except that the combined filtrate and CHCl3 washes was simply washed 1×120 ml. saturated NaHCO3 and 1×120 ml. H2O, dried and stripped to an oil which was chromatographed on silica gel with 4:1 CH2Cl2 :ethyl acetate as eluant to yield purified hydrate of title product as an oil. On distillation (bp 130°/0.65) title product was obtained as a solid, 10.5 g.; 1H-nmr 4.06 (s, 3H), 7.45 (m, 5H), 9.57 (s, 1H).

reactant | methyl N-methylindole-2-carboxylate | CN1C(=CC2=CC=CC=C12)C(=O)OC | C11H11NO2
reactant | 2-(N-methyl-2-indolyl)-2-oxo-1-(methylthio)ethanol | CN1C(=CC2=CC=CC=C12)C(C(O)SC)=O | C12H13NO2S
product | (N-Methyl-2-indolyl)glyoxal | CN1C(=CC2=CC=CC=C12)C(=O)C=O | C11H9NO2
